US06015822
with ice-cooling, 4.0 g (34.7 mmol) of methanesulfonyl chloride were added dropwise to a solution of 5.1 g (31.6 mmol) of 1-amino-3,3-dimethylindan and 12.8 g (126.4 mmol) of triethylamine in 100 ml of THF. After 2 h at RT, 100 ml of water were added, the reaction mixture was concentrated to about 50 ml and admixed with 100 ml of water and the precipitate was filtered off with suction, rinsed with water and dried under reduced pressure. This procedure gave 6.7 g of 3,3-dimethyl-1-methylsulfonylaminoindan; m.p. 117-119° C.

reactant | methanesulfonyl chloride | 34.7 mmol, 4.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-amino-3,3-dimethylindan | 31.6 mmol, 5.1 g | NC1CC(C2=CC=CC=C12)(C)C | C11H15N
reactant | triethylamine | 126.4 mmol, 12.8 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3,3-dimethyl-1-methylsulfonylaminoindan | 6.7 g | CC1(CC(C2=CC=CC=C12)NS(=O)(=O)C)C | C12H17NO2S
